US04956359
N-Methyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbothioamide
Crude 3-[3-(trifluoromethyl)phenoxy]azetidine from catalytic debenzylation of 26.0 g (0.078 mole) of 1-benzhydryl-3-[3-(trifluoromethyl)phenoxy]azetidine was dissolved in 100 ml of methylene chloride and treated dropwise under a nitrogen atmosphere with a solution of 5.0 g (0.0678 mole) of methylisothiocyanate in 15 ml of methylene chloride. The reaction mixture was stirred for 16 hr at ambient temperature and let stand over the weekend. The solution was filtered through a celite filter pad to remove a fine crystalline precipitate and the filtrate was evaporated under reduced pressure. The residual oil was crystallized from isopropyl ether to give 12.6 g of product, m.p. 79°-86° C. A 5.0 g sample was recrystallized from isopropyl ether (charcoal) to give 3.2 g, m.p. 89°-93° C., which was shown by TLC on silica gel (10% methanol-toluene) to be contaminated by a lower Rf material. The filtrate was evaporated under reduced pressure, combined with the 3.2 g of solid and dissolved in 100 ml of methylene chloride. The solution was stirred with 25 g of silica gel for 0.5 hr and filtered through a sintered glass filter. The silica gel was washed with a small volume of methylene chloride and the filtrate evaporated under reduced pressure. The residual solid was recrystallized from isopropyl ether to give 1.3 g of pure product, m.p. 96°-98° C.

reactant | 3-[3-(trifluoromethyl)phenoxy]azetidine | FC(C=1C=C(OC2CNC2)C=CC1)(F)F | C10H10F3NO
reactant | 1-benzhydryl-3-[3-(trifluoromethyl)phenoxy]azetidine | 0.078 mole, 26.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F | C23H20F3NO
reactant | methylisothiocyanate | 0.0678 mole, 5.0 g | CN=C=S | C2H3NS
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | N-Methyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbothioamide | 12.6 g | CNC(=S)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F | C12H13F3N2OS
